US07425634B2
(40c) (2-ethyl-1,3-dioxolan-2-yl)methanol
A mixture of methyl(2-ethyl-1,3-dioxolan-2-yl) acetate (1.39 g, 7.94 mmol), potassium carbonate (2.19 g, 15.9 mmol), tetrahydrofuran (20 ml) and water (10 ml) was stirred at room temperature for 6 hours and 50 minutes. The reaction mixture was concentrated under reduced pressure, ethyl acetate was added to the residue, which was subjected to NH silica gel pad filtration. The filtrate was concentrated under reduced pressure to obtain the title compound (0.75 g, 71.5%) as colorless oil.

reactant | methyl(2-ethyl-1,3-dioxolan-2-yl) acetate | 7.94 mmol, 1.39 g | C(C)(=O)OC1(OCC(O1)C)CC | C8H14O4
reactant | potassium carbonate | 15.9 mmol, 2.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 10 ml | O | H2O
product | (2-ethyl-1,3-dioxolan-2-yl)methanol | 0.75 g, 71.5% | C(C)C1(OCCO1)CO | C6H12O3
